US05968952
A mixture of (±)-6-[hydroxy(3-fluorophenyl)methyl]-4-phenyl-2(1H)-quinolinone (11 g) of thionyl chloride (11 ml) and DCM (120 ml) was stirred at room temperature for 12 hours. The solvent was evaporated till dryness and used without further purification, yielding 11.6 g (±)-6-[chloro(3-fluorophenyl)methyl]-4-phenyl-2(1H)-quinolinone (100%) (interm. 3).

reactant | (±)-6-[hydroxy(3-fluorophenyl)methyl]-4-phenyl-2(1H)-quinolinone | 11 g | OC(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC=CC=C1)C1=CC(=CC=C1)F | C22H16FNO2
reactant | thionyl chloride | 11 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
product | (±)-6-[chloro(3-fluorophenyl)methyl]-4-phenyl-2(1H)-quinolinone | 11.6 g, 100% | ClC(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC=CC=C1)C1=CC(=CC=C1)F | C22H15ClFNO
